US04647694
DL-phenyl alanine (V)
95.1 g (0.5 mole) of 5-benzyl-hydantoin are heated to boiling in 350 ml of a 20% sodium hydroxide solution for 30 hours. The reaction mixture is clarified with activated charcoal and acidified with concentrated hydrochloric acid (pH 2). The precipitate (hydrantoinic acid) is filtered off and the phenyl alanine is precipitated from the filtrate as described in Example 11. Thus 59.5 g of the dry desired compound are obtained, yield 72%. Purity: 97.5% (according to HPLC).

reactant | 5-benzyl-hydantoin | 0.5 mole, 95.1 g | C(C1=CC=CC=C1)C1C(NC(N1)=O)=O | C10H10N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | charcoal | C | CH4
reactant | hydrochloric acid | pH 2 | Cl | ClH
product | DL-phenyl alanine | yield 72% | NC(CC1=CC=CC=C1)C(=O)O | C9H11NO2
